US04997976
Alternate process for the preparation of 1,3-butanediol-acetoacetate.
5 mmol of triethylamine are mixed with 1 mol of 1,3-butanediol. The mixture is kept on ice and stirred while 1 mol of diketene is added dropwise over 1.5 hours. Stirring is continued for 5 to 7 hours at 0° C., then for 15 hours at room temperature. The reaction is monitored occasionally by proton NMR and after 15 hours, it is complete. This procedure yields a mixture of butanediol-acetoacetate and butanediol-diacetoacetate in proportion 77:23 (assayed by gas chromatography). Butanediol-diacetoacetate can be obtained as a main product by reacting 1 mol of butanediol with 2 mol of diketene.

reactant | butanediol | 1 mol | C(CCC)(O)O | C4H10O2
reactant | diketene | 2 mol | C=C1CC(=O)O1 | C4H4O2
product | 1,3-butanediol acetoacetate | C(CC(C)O)O.C(CC(=O)C)(=O)[O-] | InChI=1S/C4H6O3.C4H10O2/c1-3(5)2-4(6)7;1-4(6)2-3-5/h2H2,1H3,(H,6,7);4-6H,2-3H2,1H3/p-1
